US08084448B2
A. 5-[2-Benzyloxy-4-(2-methylpropenyl)-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (150 mg, 0.338 mmol) and 2,2-dimethylethenylboronic acid (67 mg, 0.670 mmol), resin-bound PPh3Pd (519 mg, 0.069 mmol) and Na2CO3 (0.338 mL, 2M) in DME (3 mL) is heated in a microwave apparatus at 12° C. for 20 min. The mixture is filtered through Celite, washed with MeCN and concentrated. The residue is purified by reverse phase chromatography using a gradient of 10-60% EtOH/H2O as eluent to afford the title compound: (M−1)−=371.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.338 mmol, 150 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | 2,2-dimethylethenylboronic acid | 0.670 mmol, 67 mg | CC(=CB(O)O)C | C4H9BO2
reactant | Na2CO3 | 2M, 0.338 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
product | 5-[2-Benzyloxy-4-(2-methylpropenyl)-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C=C(C)C)N1CC(NS1(=O)=O)=O | C19H20N2O4S
